US07960394B2
(3) Production of 7-bromo-2-[2-(2-fluoroethoxy)-4-(3-piperidin-1-ylpropoxy)phenyl]-3-methylquinazolin-4(3H)-one:
7-Bromo-2-[2-hydroxy-4-(3-piperidin-1-ylpropoxy)phenyl]-3-methylquinazolin-4(3H)-one (9.5 mg, 0.020 mmol) and potassium carbonate (8.3 mg, 0.06 mmol) were stirred in DMF (0.5 mL) at room temperature, and 2-fluoroethyl tosylate (6.6 mg, 0.03 mmol) was dropwise added thereto and stirred at room temperature for 3 hours. The reaction solution was diluted with ethyl acetate, washed with water and saturated saline water, and the organic layer was dried with magnesium sulfate. The solvent was evaporated off, and the residue was purified through silica gel thin-layer chromatography (chloroform/methanol=9/1) to obtain the intended compound (4.5 mg, 47%) as a milky white solid.

reactant | 7-Bromo-2-[2-hydroxy-4-(3-piperidin-1-ylpropoxy)phenyl]-3-methylquinazolin-4(3H)-one | 0.020 mmol, 9.5 mg | BrC1=CC=C2C(N(C(=NC2=C1)C1=C(C=C(C=C1)OCCCN1CCCCC1)O)C)=O | C23H26BrN3O3
reactant | potassium carbonate | 0.06 mmol, 8.3 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-fluoroethyl tosylate | 0.03 mmol, 6.6 mg | S(=O)(=O)(OCCF)C1=CC=C(C)C=C1 | C9H11FO3S
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-bromo-2-[2-(2-fluoroethoxy)-4-(3-piperidin-1-ylpropoxy)phenyl]-3-methylquinazolin-4(3H)-one | 4.5 mg, 47% | BrC1=CC=C2C(N(C(=NC2=C1)C1=C(C=C(C=C1)OCCCN1CCCCC1)OCCF)C)=O | C25H29BrFN3O3
